US07846929B2
3-(2-Chloro-7-methyl-4-morpholinothieno[3,2-d]pyrimidin-6-yl)benzoic acid (60 mg) was reacted with ethanolamine via General Procedure B to yield 3-(2-chloro-7-methyl-4-morpholinothieno[3,2-d]pyrimidin-6-yl)-N-(2-hydroxyethyl)benzamide. Crude 3-(2-chloro-7-methyl-4-morpholinothieno[3,2-d]pyrimidin-6-yl)-N-(2-hydroxyethyl)benzamide (74 mg) was coupled to 7-azaindole-5-boronic acid pinacol ester via General Procedure A. The product was purified by reverse phase HPLC to yield 2.6 mg of 426. MS (Q1) 515.2 (M)+

reactant | 3-(2-Chloro-7-methyl-4-morpholinothieno[3,2-d]pyrimidin-6-yl)benzoic acid | 60 mg | ClC=1N=C(C2=C(N1)C(=C(S2)C=2C=C(C(=O)O)C=CC2)C)N2CCOCC2 | C18H16ClN3O3S
reactant | ethanolamine | C(O)CN | C2H7NO
product | 3-(2-chloro-7-methyl-4-morpholinothieno[3,2-d]pyrimidin-6-yl)-N-(2-hydroxyethyl)benzamide | ClC=1N=C(C2=C(N1)C(=C(S2)C=2C=C(C(=O)NCCO)C=CC2)C)N2CCOCC2 | C20H21ClN4O3S
